US03968154
The sodium salt of the penilloic acid is reacted with a mercuric halogenide, for example mercuric chloride, or a mercuric salt in the presence of halogen ions in aqueous solution. This results in the formation of a penicillamine-mercuric-halogenide-complex compound which is isolated by filtration and then thoroughly freed from the formed by-product penilloaldehyde and the inorganic salt by washing and suspending.

reactant | sodium | [Na] | Na
reactant | penilloic acid | CC1(C(NC(S1)CNC(=O)CC2=CC=CC=C2)C(=O)O)C | C15H20N2O3S
product | penicillamine | N[C@@H](C(C)(C)S)C(=O)O | C5H11NO2S
